datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62].C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH2:20][CH:21]=[C:22]([O-:23])[O:33]C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[O:33][C:22]([CH:21]=[CH2:20])=[O:23].Cl[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>C[O:33][C:22](=[CH:21][CH2:20][O:10][C:61]1=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CCCCCC[Si:11](CCCCCC)(CCCCCC)[H:10].CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CCCCCC[Si+:11](CCCCCC)CCCCCC.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20](C1=CC(F)=CC(F)=C1)C1C(C2=CC(F)=CC(F)=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
CC[O:82][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>CC[O:82][C:61]([CH:10]([C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2)[S:71](C1=CC=CC=C1)(=[O:72])=[O:92])=[O:62] 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[C:11](=[CH2:10])[C:62](C)=[CH2:63]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11](C)[C:62](C)=[CH2:63])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62]>>CC[O:82][C:61]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:10](C)=[C:11](C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)(C)[C+:11](C)C)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
CN1C(C)(C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2C(C)(C)N(C)[C:62](=[O:63])[C@@H:61]2CC2=CC=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10=20
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.[N:10](=[O:61])[O-:71]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([N+:10](=[O:61])[O-:71])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10=20
"C[C:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"C1C[C:20](=[O:21])CCS1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>C1C[C:20]([H:10])([O-:21])CCS1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
